US07511144B2
Manganese dioxide (507 g) was added to a solution of 61 g (0.25 mol) of 4-(2-hydroxyethylidene)azepane-1-carboxylic acid t-butyl ester obtained in the above 2) in a mixture of hexane (1865 ml)-chloroform (624 mL) and stirred for 18 hours. After the reaction was completed, insoluble materials were filtered off through Celite and the filtrate was concentrated under a reduced pressure to obtain 33.2 g (yield 55%) of 4-(2-oxoethylidene)azepane-1-carboxylic acid t-butyl ester (VII-17, 125, 126). Its physical property is shown below.

reactant | 4-(2-hydroxyethylidene)azepane-1-carboxylic acid t-butyl ester | 0.25 mol, 61 g | C(C)(C)(C)OC(=O)N1CCC(CCC1)=CCO | C13H23NO3
reactant | chloroform | 624 mL | C(Cl)(Cl)Cl | CHCl3
solvent | hexane | 1865 ml | CCCCCC | C6H14
catalyst | Manganese dioxide | 507 g | [O-2].[O-2].[Mn+4]
product | 4-(2-oxoethylidene)azepane-1-carboxylic acid t-butyl ester | 33.2 g, yield 55% | C(C)(C)(C)OC(=O)N1CCC(CCC1)=CC=O | C13H21NO3
